US04753941
The procedure is similar to that described in Example 2, but starting with 3-ethoxycarbonylaminobenzoic acid (10 g), N,N'-carbonyldiimidazole (7.6 g) and 2-amino-7-methoxy-1,8-naphthyridine (5.95 g). The reaction mixture is then poured into water (1000 cc) and the precipitate formed is separated by filtration, washed with water (10 cc) and dried in the air. On recrystallization in ethyl acetate (100 cc) of the product thereby obtained, N-(7-methoxy-1,8-naphthyridin-2-yl)-3-ethoxycarbonylaminobenzamide (7.3 g), m.p. 120° C., is obtained.

reactant | 3-ethoxycarbonylaminobenzoic acid | 10 g | C(C)OC(=O)NC=1C=C(C(=O)O)C=CC1 | C10H11NO4
reactant | 2-amino-7-methoxy-1,8-naphthyridine | 5.95 g | NC1=NC2=NC(=CC=C2C=C1)OC | C9H9N3O
solvent | water | 1000 cc | O | H2O
product | N-(7-methoxy-1,8-naphthyridin-2-yl)-3-ethoxycarbonylaminobenzamide | 7.3 g | COC1=CC=C2C=CC(=NC2=N1)NC(C1=CC(=CC=C1)NC(=O)OCC)=O | C19H18N4O4
